Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
nausea, vomiting, diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o M with a past medical history of hypertension
NIDDM2, HLD, stable angina, hearing loss and metastatic 
pancreatic cancer s/p ___ on palliative chemotherapy 
presenting with 6 days of diarrhea and 2 days of nausea and 
vomiting. He notes ___ episodes of watery, non-bloody diarrhea 
every day for the past 6 days. He also complains of several days 
of nausea and vomiting. He also complains of one episode of 
night sweats and chills on day prior to admission. Notes he has 
been unable to take POs and has been feeling dehydrated and 
lightheaded.  He denies abdominal pain,
fevers, bloody stools, chest pain and SOB. The patient had his 
most recent session of chemotherapy on ___ and his prior 
session was held in the setting of acute illness. He denies any 
recent sick contacts.

Of note, he was recently hospitalized ___ for chest 
pain when he was found to be febrile and have a UTI and GNR 
bacteremia.

ED course:
In the ED, patient was noted to have nausea, vomiting and 
diarrhea. He received 1L IVF, Zofran and morphine for pain 
control. CT A/P showed mild proctitis so he was admitted for 
further workup.

 
Past Medical History:
PAST MEDICAL HISTORY:
T2D,HLD,HTN,stable angina and hearing loss. 

See OMR for detailed oncologic history: Briefly, 

___: dx with pancreatic cancer ___ s/p Whipple
Adjuvant gemcitabine and Abraxane until ___ 
___- additional chemotherapy for metatastatic liver lesions
___- worsening metastatic liver lesions

PAST SURGICAL HISTORY: 
___ ___ 

 
Social History:
___
Family History:
Father prostate cancer, brother liver cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals: ___ 1126 Temp: 98.0 PO BP: 130/72 HR: 88 RR: 18 O2
sat: 99% O2 delivery: RA   
General: Awake, cooperative, NAD.
HEENT: Pupils react normally to light. Oropharynx is clear.
Neck: Supple
Lungs: Clear with no wheezing, rhonchi or rales.
Cardiovascular: Regular rate and rhythm. Normal S1 and S2 no
m/r/g.
Abdomen: soft, tender to palpation in epigastric area.
non-distended. periumbilical surgical scar. No suprapubic
tenderness. There is no 
organomegaly or appreciable mass. Bowel sounds are hyperactive.
Back: No CVA tenderness. 
Extremities: No edema, 2+ pedal pulses
Neurologic: Cranial nerves II through XII are intact. No focal
motor or sensory deficits are noted.

DISCHARGE PHYSICAL EXAM
Vitals:  ___ 2314 Temp: 97.9 PO BP: 155/70 HR: 77 RR: 20 O2
sat: 98% O2 delivery: Ra 
General: Awake, cooperative, NAD.
HEENT: Pupils react normally to light. Oropharynx is clear.
Neck: Supple
Lungs: Clear with no wheezing, rhonchi or rales.
Cardiovascular: Regular rate and rhythm. Normal S1 and S2 no
m/r/g.
Abdomen: soft, non-tender, non-distended. periumbilical surgical
scar. No suprapubic tenderness. There is no 
organomegaly or appreciable mass. normal bowel sounds.
Back: No CVA tenderness. 
Extremities: No edema, 2+ pedal pulses
Neurologic: Cranial nerves II through XII are intact. No focal
motor or sensory deficits are noted.

 
Pertinent Results:
ADMISSION LABS
___ 11:07PM BLOOD WBC-7.7 RBC-3.31* Hgb-9.8* Hct-32.9* 
MCV-99* MCH-29.6 MCHC-29.8* RDW-16.3* RDWSD-60.0* Plt ___
___ 11:07PM BLOOD Neuts-87.0* Lymphs-10.4* Monos-1.3* 
Eos-0.7* Baso-0.1 Im ___ AbsNeut-6.67* AbsLymp-0.80* 
AbsMono-0.10* AbsEos-0.05 AbsBaso-0.01
___ 11:07PM BLOOD Glucose-195* UreaN-20 Creat-0.9 Na-132* 
K-4.9 Cl-98 HCO3-21* AnGap-13
___ 11:07PM BLOOD ALT-37 AST-26 AlkPhos-859* TotBili-0.9
___ 11:07PM BLOOD Albumin-3.5

DISCHARGE LABS
___ 05:25AM BLOOD WBC-3.0* RBC-2.56* Hgb-7.5* Hct-23.8* 
MCV-93 MCH-29.3 MCHC-31.5* RDW-15.8* RDWSD-53.8* Plt ___
___ 05:25AM BLOOD Neuts-70.2 ___ Monos-3.9* 
Eos-0.7* Baso-0.4 AbsNeut-1.98 AbsLymp-0.68* AbsMono-0.11* 
AbsEos-0.02* AbsBaso-0.01
___ 05:25AM BLOOD Glucose-134* UreaN-9 Creat-0.7 Na-139 
K-3.6 Cl-104 HCO3-22 AnGap-13
___ 05:25AM BLOOD Calcium-8.5 Phos-3.1 Mg-1.9

MICRO

___ 7:43 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 

___ 7:43 pm STOOL     CONSISTENCY: LOOSE      Source: 
Stool. 

                            **FINAL REPORT ___

   C. difficile PCR (Final ___: 
      NEGATIVE. 
___ 7:43 pm STOOL     CONSISTENCY: LOOSE      Source: 
Stool. 

                            **FINAL REPORT ___

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      . 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 
      . 
      FEW POLYMORPHONUCLEAR LEUKOCYTES. 
___ 12:40 am BLOOD CULTURE      Source: Line-Port. 

   Blood Culture, Routine (Pending):    No growth to date. 

___ 9:05 am STOOL     CONSISTENCY: LOOSE      Source: 
Stool. 

                            **FINAL REPORT ___

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      . 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 
      . 
      FEW POLYMORPHONUCLEAR LEUKOCYTES. 

___ 9:21 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------     8 S
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   0.5 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

___ 6:13 pm BLOOD CULTURE      Source: Line-POC. 

   Blood Culture, Routine (Pending):    No growth to date. 

___ 7:20 pm BLOOD CULTURE      Source: Line-POC. 

   Blood Culture, Routine (Pending):    No growth to date. 

IMAGING
CT ABD/PELVIS ___
1. Likely mild proctitis without a perirectal abscess or bowel 
obstruction. 
2. The known metastatic lesion in the right hepatic lobe 
measuring up to 6.6 cm, is slightly large in size since prior 
exam from ___, when it measured up to 6.2 cm.  The 
adjacent hepatic parenchyma in segment VI and VII enhances 
heterogeneously raising suspicion for satellite metastases. 
Unchanged appearance of occluded right hepatic vein and right 
branch of the portal vein. 
3. Subacute healing pathologic fracture is again seen in the 
left lateral 
tenth rib.  Unchanged compression deformities of the L3-L5 
vertebrae. 

 
Brief Hospital Course:
___ y/o M with a past medical history of hypertension NIDDM2, 
HLD, stable angina, hearing loss and metastatic pancreatic 
cancer s/p Whipple on palliative chemotherapy, who presented 
with 6 days of diarrhea and 2 days of nausea and
vomiting likely ___ recent chemotherapy and a urinary tract 
infection.

ACUTE ISSUES
#Complicated urinary tract infection
Despite lack of symptoms, due to a history of recurrent urinary 
infections and ongoing fevers, we sent for a UA and urine 
culture. The patient was found to have a grossly positive UA and 
culture grew pan-sensitive E. Coli. The patient was initially 
placed on Zosyn and was discharged to complete a 7 day course of 
Bactrim DS. Given recurrent urinary tract infections, urology 
was consulted and they recommended continuing prophylactic 
Bactrim SS indefinitely. He will be following up with urology 
outpatient.

#Diarrhea, nausea, vomiting
#Poor PO intake
Patient with one week of diarrhea and several days of nausea and 
vomiting. C4D1 of chemotherapy was ___. Diarrhea is a 
common adverse effect of onivyde. Given patient had a 2 month 
break from chemotherapy, it is possible that this was a rebound 
effect in the setting of drug break. The patient was also 
complaining of chills and sweats concerning for possible 
infectious etiology. During his last admission, he had GNR 
bacteremia and was treated with meropenem and discharged on 
ertapenem with course finishing ___. On this admission, C. 
Diff and Legionella were negative. Nausea and vomiting resolved 
rapidly with symptomatic treatment. He was able to eat, but 
continued to have diarrhea throughout hospital course. It 
resolved prior to discharge with loperamide. Stool, blood and 
urine cultures were all negative to date.

#Proctitis:
CT with mild proctitis. DDx included anal fissures/fistulas, C. 
Diff, diverticulitis, infectious, IBD, traumatic. In this case, 
it was likely due to inflammation from severe diarrhea.

#Hyponatremia:
This was noted on admission and believed to be likely hypotonic 
hypovolemic in the setting of poor PO intake and less likely 
SIADH. Na was noted to be 133 on ___ at appointment prior for 
chemotherapy, and believed to be ___ poor PO intake. Na 138 on 
___.

#Metastatic pancreatic cancer
Followed by oncologist Dr. ___. His current regimen is 
___ which he recently received on ___ for 
palliative chemotherapy. Palliative care was consulted to 
discuss GOC and symptom management. Patient will follow closely 
with Dr. ___ discharge to discuss next steps.

CHRONIC ISSUES
#Anemia
Baseline around ___ at recent admission. Patient remained around 
baseline and did not require any transfusions. 

#Hx of stable angina
EKG on admission with no evidence of ST segment changes. 
Troponins negative x1.

#Hypertension:
He was continued on amlodipine, lisinopril. Metoprolol was held 
during this admission as it was held on discharge at last 
admission. Given blood pressures were slightly elevated while 
inpatient, patient may benefit from restarting metoprolol.

#Diabetes:
Patient placed on insulin sliding scale while inpatient.

TRANSITIONAL ISSUES
[]Last day of Bactrim DS for UTI ___
[]Given recurrent UTIs, urology consulted and recommended 
prophylactic Bactrim SS indefinitely, will need to follow 
closely with urology outpatient
[]Patient has had numerous hospitalizations and poor tolerance 
to chemo, would benefit from conversations with outpatient 
oncologist Dr. ___ plan moving forward
[]Will need ongoing conversations regarding code status
[]Nausea, vomiting and diarrhea resolved with symptomatic 
treatment but will likely require titration of symptomatic 
medications to ensure doesn't become constipated; encourage 
patient to take loperamide for symptomatic relief
[]Patient seems somewhat confused about medication regimen, 
would benefit from clarification or help with medication 
management
[]BPs mostly 140s/60s while inpatient but going up to SBPs 160s 
prior to discharge on amlodipine and lisinopril. metoprolol was 
held on discharge but patient would benefit from ongoing BP 
monitoring and may need to restart metoprolol.
[]Patient would benefit from ongoing follow up with nutrition as 
PO intake appears somewhat poor at baseline and albumin was 3.1.

___) ___ 
#CODE STATUS: FULL 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 
4. Creon 12 2 CAP PO QIDWMHS 
5. Finasteride 5 mg PO DAILY 
6. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
7. Lisinopril 5 mg PO DAILY 
8. Polyethylene Glycol 17 g PO DAILY 
9. Senna 17.2 mg PO BID 
10. LOPERamide 2 mg PO QID:PRN diarrhea 
11. Magnesium Oxide 400 mg PO DAILY 
12. MetFORMIN (Glucophage) 850 mg PO DAILY 
13. Metoprolol Succinate XL 100 mg PO DAILY 
14. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 

 
Discharge Medications:
1.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 5 Days 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*10 Tablet Refills:*0 
2.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
Take this medication after you finish Bactrim DS to prevent 
recurrent urinary infection 
RX *sulfamethoxazole-trimethoprim 400 mg-80 mg 1 tablet(s) by 
mouth every day Disp #*30 Tablet Refills:*0 
3.  amLODIPine 10 mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 20 mg PO QPM  
6.  Creon 12 2 CAP PO QIDWMHS  
7.  Finasteride 5 mg PO DAILY  
8.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY  
9.  Lisinopril 5 mg PO DAILY  
10.  LOPERamide 2 mg PO QID:PRN diarrhea 
RX *loperamide 2 mg 1 tablet by mouth every 6 hours Disp #*60 
Capsule Refills:*0 
11.  MetFORMIN (Glucophage) 850 mg PO DAILY  
12.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
13.  Polyethylene Glycol 17 g PO DAILY  
14.  Senna 17.2 mg PO BID  
15. HELD- Magnesium Oxide 400 mg PO DAILY  This medication was 
held. Do not restart Magnesium Oxide until your doctor tells you 
to
16. HELD- Metoprolol Succinate XL 100 mg PO DAILY  This 
medication was held. Do not restart Metoprolol Succinate XL 
until your doctor tells you to

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Complicated urinary tract infection
Diarrhea

SECONDARY DIAGNOSES
metastatic pancreatic cancer
hyponatremia
proctitis
anemia
hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?
- You came to the hospital because you were nauseous and were 
having diarrhea and vomiting all week.

WHAT HAPPENED TO ME IN THE HOSPITAL?
- We gave you lots of fluids through the IV and you felt better
- You were found to have a urinary infection and we gave you 
antibiotics
- We gave you medications for your nausea and diarrhea and you 
felt better
- You were able to eat and stopped having diarrhea so you were 
discharged home

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Be sure to take the DOUBLE STRENGTH Bactrim until ___ 
after this switch to the SINGLE STRENGTH Bactrim and only take 
one of those tablets daily until you talk to the urologists
- Continue to take all your medicines and keep your 
appointments.
- Please come back to the hospital if you have any worsening of 
your nausea, vomiting, diarrhea, dehydration or if you are 
unable to eat and drink.

We wish you the best!

Sincerely,
Your ___ Team

 
Followup Instructions:
___